US09359344B2
4-nitro-1H-1,2,3-triazole (6.468 g, 56.707 mmol) and potassium carbonate (15.683 g, 113.472 mmol) were added into 150 mL acetone. Chloromethyl methyl ether (4.74 mL, 62.407 mmol) was added dropwise into the above mixture under ice bath. After completion, water and ethyl acetate were added into the reaction solution. Phases were separated. The aqueous phase was extracted with ethyl acetate. The organic phases were combined, washed with saturated sodium chloride, dried over anhydrous sodium sulfate, filtered, concentrated, chromatographed on a silica gel column (ethyl acetate:petroleum ether=1:5) to obtain 1-(methoxymethyl)-4-nitro-1H-1,2,3-triazole, as 5.517 g of a light yellow liquid, at a yield of 61.5%.

reactant | 4-nitro-1H-1,2,3-triazole | 56.707 mmol, 6.468 g | [N+](=O)([O-])C=1N=NNC1 | C2H2N4O2
reactant | potassium carbonate | 113.472 mmol, 15.683 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 150 mL | CC(=O)C | C3H6O
reactant | Chloromethyl methyl ether | 62.407 mmol, 4.74 mL | COCCl | C2H5ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-(methoxymethyl)-4-nitro-1H-1,2,3-triazole | yield of 61.5% | COCN1N=NC(=C1)[N+](=O)[O-] | C4H6N4O3
